* C:\Users\Sanjit\OneDrive - Imperial College London\Documents [IC]\ADC\Labs\ADC 4\Lab Part 4\ADC Lab Part 4\active_load_amplification_stage.asc
V_CC N001 0 5
C1 v_b v_in 1µ
Q1 V_out v_b N004 0 2N2222
v_in v_in 0 0 AC 1
V_EE N004 0 -5
Q2 V_out N002 N001 0 2N2907
Q3 N002 N002 N001 0 2N2907
R_B N002 N004 9.3k
R2 V_out N003 430k
R3 v_b N003 430k
C2 N003 0 1µ
R1 v_b N004 860k
.model NPN NPN
.model PNP PNP
.lib C:\Users\Sanjit\Documents\LTspiceXVII\lib\cmp\standard.bjt
;.op
.ac dec 100 10 100meg
.backanno
.end
