* C:\Users\Sanjit\OneDrive - Imperial College London\Documents [IC]\ADC\Labs\ADC 4\Lab Part 4\ADC Lab Part 4\amplification_stage_1.asc
V_CC N001 0 5
R_B N001 v_b 1.86Meg
R_C N001 V_out 5k
C1 v_b N002 1µ
Q1 V_out v_b N003 0 2N2222
v_in v_in 0 0 AC 1
V_EE N003 0 -5
R1 N002 v_in 10k
.model NPN NPN
.model PNP PNP
.lib C:\Users\Sanjit\Documents\LTspiceXVII\lib\cmp\standard.bjt
;.op
.ac dec 100 10 100meg
.backanno
.end
