* C:\Users\Sanjit\OneDrive - Imperial College London\Documents [IC]\ADC\Labs\ADC 4\Lab Part 4\ADC Lab Part 4\differential_amplifier_long_tailed_pair.asc
V_CC V_CC 0 5
Q§T2 v_out 0 N002 0 2N2907
Q§T1 V_EE V_d N002 0 2N2907
R_C v_out V_EE 2k
V_EE V_EE 0 -5
V_d V_d 0 AC 1
Q§T3 N001 V_b V_CC 0 2N2907
Q§T4 V_b V_b V_CC 0 2N2907
Q§T5 N002 N001 V_b 0 2N2907
R1 N001 V_EE 8600
.model NPN NPN
.model PNP PNP
.lib C:\Users\Sanjit\Documents\LTspiceXVII\lib\cmp\standard.bjt
.ac dec 100 10 100meg
.backanno
.end
