* C:\Users\Sanjit\OneDrive - Imperial College London\Documents [IC]\ADC\Labs\ADC 4\Lab Part 4\ADC Lab Part 4\wilson_current_mirror.asc
V_CC V_CC 0 5
V_C V_C 0 -10
Q§T1 IN V_b V_CC 0 2N2907
Q§T2 V_b V_b V_CC 0 2N2907
R1 IN 0 4.3k
R_m1 OUT V_C 470
Q§T3 OUT IN V_b 0 2N2907
.model NPN NPN
.model PNP PNP
.lib C:\Users\Sanjit\Documents\LTspiceXVII\lib\cmp\standard.bjt
.dc V_C -15 -5
;.op
.backanno
.end
